US07563813B2
To 2-(3-Carboxy-acryloylamino)-4,5-dimethyl-thiophene-3-carboxylic acid ethyl ester (2.97 g, 10.0 mmol) in 50 mL of N,N-dimethyl-formamide was added N-hydroxy-benzotriazole (1.48 g, 11.0 mmol) and 1-[3-(dimethylamino) propyl]-3-ethyl-carbodiimide hydrochloride (2.88 g, 15.0 mmol). The reaction mixture was stirred at room temperature for 10 minutes and thiourea (0.84 g, 11.0 mmol) was added. The reaction mixture was stirred at room temperature for another 30 minutes and was heated at 60° C. for 12 hours. The reaction mixture was diluted with 250 mL of ethyl acetate and was washed with 100 mL of water and 100 mL of brine. The organic layer was collected, dried over sodium sulfate and concentrated. The residue was load on a 120 g silica gel column and purified by flash chromatography (eluted with a gradient of 0 to 10% ethyl acetate/hexanes). Ethyl 2-{[(2-amino-4-oxo-4,5-dihydro-1,3-thiazol-5-yl) acetyl]amino}-4,5-dimethylthiophene-3-carboxylate (1.80 g, 51% yield) was produced.

reactant | 2-(3-Carboxy-acryloylamino)-4,5-dimethyl-thiophene-3-carboxylic acid ethyl ester | 10.0 mmol, 2.97 g | C(C)OC(=O)C1=C(SC(=C1C)C)NC(C=CC(=O)O)=O | C13H15NO5S
reactant | N-hydroxy-benzotriazole | 11.0 mmol, 1.48 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino) propyl]-3-ethyl-carbodiimide hydrochloride | 15.0 mmol, 2.88 g | Cl.CN(CCCN=C=NCC)C
reactant | thiourea | 11.0 mmol, 0.84 g | NC(=S)N | CH4N2S
solvent | N,N-dimethyl-formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-{[(2-amino-4-oxo-4,5-dihydro-1,3-thiazol-5-yl) acetyl]amino}-4,5-dimethylthiophene-3-carboxylate | 1.80 g, 51% yield | NC=1SC(C(N1)=O)CC(=O)NC=1SC(=C(C1C(=O)OCC)C)C | C14H17N3O4S2
